US05164500
After 2.0 g of 2-amino-OXT-A was dissolved in 300 ml of 1/10M phosphate buffer (pH 6.5), 200 units of 5'-adenylic acid deaminase (manufactured by Sigma Co., A-1907) were added to the solution followed by stirring at 37° C. for 50 hours. After the reaction solution was passed through a column packed with MCI® GEL CHP 20 (300 ml) and the reaction products were adsorbed onto it, the products were eluted by water. Fractions showing an Rf value of about 0.42 in silica gel TLC [developing solvent: n-butanol-acetic acid-water (4:1:2)] were collected and concentrated to dryness under reduced pressure to give 1.8 g of OXT-G as colorless crystals (yield, 90%).

reactant | 2-amino-OXT-A | 2.0 g | C1=NC2=C(N1[C@H]3[C@@H]([C@H](O3)CO)CO)N=C(N=C2N)N | C10H14N6O3
reactant | phosphate | 10M, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | 5'-adenylic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](COP(=O)(O)O)O1)N1C=NC=2C(N)=NC=NC12 | C10H14N5O7P
product | OXT-G | 1.8 g | C1=NC2=C(N1[C@H]3[C@@H]([C@H](O3)CO)CO)NC(=NC2=O)N | C10H13N5O4
